US04654343
N-Methyl-N-[3-[3-(ethylamino)-1,2,4-triazolo[4,3-b]-pyridazin-6-yl]phenyl]propanamide
A solution of 5.0 g N-methyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]propanamide and 4.3 g 4-ethyl-3-thiosemicarbazide was refluxed for 18 hours. The mixture was then treated and the product chromatographed as described in Example 70. Recrystalization of the product from dichloromethane-hexane afforded 1.2 g of yellow crystals, mp 198°-199° C.

reactant | N-methyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]propanamide | 5.0 g | CN(C(CC)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C14H14ClN3O
reactant | 4-ethyl-3-thiosemicarbazide | 4.3 g | C(C)NC(NN)=S | C3H9N3S
product | N-Methyl-N-[3-[3-(ethylamino)-1,2,4-triazolo[4,3-b]-pyridazin-6-yl]phenyl]propanamide | 1.2 g | CN(C(CC)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)NCC | C17H20N6O
